US04654347
A mixture of m-aminoacetophenone, diisopropylethylamine, methyl chloroformate and dichloromethane was reacted as described in Example 1, giving 33.4 g of (3-acetylphenyl)carbamic acid, methyl ester.

reactant | m-aminoacetophenone | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3-acetylphenyl)carbamic acid, methyl ester | 33.4 g | C(C)(=O)C=1C=C(C=CC1)NC(OC)=O | C10H11NO3
